* Generated by electronics_design from a KiCad schematic
.include "ad8051.lib"
V1 N001 0 ${SIM.PARAMS} AC 1
XU1 N003 Out VDD VSS Out AD8051
V2 VDD 0 10
V3 0 VSS 10
V_PWR06 VDD 0 VDD
V_PWR07 VSS 0 VSS
V_PWR03 VDD 0 VDD
V_PWR04 VSS 0 VSS
R2 0 N003 1k
R1 Out N002 1k
C1 N002 N001 100n
C2 N002 N003 100n
.ac dec 100 20 20k
.backanno
.end
